US04024248
f. Glu-His-Trp-Ser-Tyr-D-Ser(But)-Leu-Arg-Pro-NH-C2H5 -diacetate
To a solution of 500 mg of Glu-His-Trp-NH-NH2 in 6 ml of dimethyl formamide were added, at -30° C, 0.66 ml of a 6.05 N HCl/dioxane solution and 1.2 ml of a 10% tert.-butyl nitrile solution in absolute dioxane. The solution was stirred for 20 minutes at -10° C and 877.8 mg of crude H-Ser-Tyr-D-Ser(But)-Leu-Arg-Pro-NH-C2H5 . 2 HCl and 0.78 ml of N-ethyl morpholine were added at -40° C. The mixture was allowed to stand overnight at 4° C. It was concentrated and the residue was triturated with ether. The substance was dissolved in water and chromatographed over Dowex(R) 1×2 (acetate form). The eluate was concentrated and purified over a carboxymethyl cellulose column (90 × 1.5 cm), that was equilibrated with 0.002 m NH4 -acetate solution. The substance was added as a solution in a 0.002 m NH4 -acetate solution. It was eluted with a 0.002 m NH4 -acetate solution in which the gradient of a 0.1 m NH4 -acetate solution was established (mixed volume 250 ml).

reactant | Glu-His-Trp-NH-NH2 | 500 mg | N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)NN | C22H28N8O5
reactant | HCl dioxane | 6.05 N | Cl.O1CCOCC1
reactant | H-Ser-Tyr-D-Ser(But)-Leu-Arg-Pro-NH-C2H5 | 877.8 mg | N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](COC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC)CCC1 | C38H64N10O9
reactant | HCl | Cl | ClH
reactant | N-ethyl morpholine | 0.78 ml | C(C)N1CCOCC1 | C6H13NO
solvent | dimethyl formamide | 6 ml | CN(C=O)C | C3H7NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Glu-His-Trp-Ser-Tyr-D-Ser(But)-Leu-Arg-Pro-NH-C2H5 diacetate | N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](COC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC)CCC1.CC(=O)CC(=O)O | InChI=1S/C60H88N16O14.C4H6O3/c1-7-65-57(88)48-15-11-23-76(48)58(89)41(14-10-22-66-59(62)63)69-51(82)42(24-33(2)3)71-56(87)47(31-90-60(4,5)6)75-52(83)43(25-34-16-18-37(78)19-17-34)72-55(86)46(30-77)74-53(84)44(26-35-28-67-40-13-9-8-12-38(35)40)73-54(85)45(27-36-29-64-32-68-36)70-50(81)39(61)20-21-49(79)80;1-3(5)2-4(6)7/h8-9,12-13,16-19,28-29,32-33,39,41-48,67,77-78H,7,10-11,14-15,20-27,30-31,61H2,1-6H3,(H,64,68)(H,65,88)(H,69,82)(H,70,81)(H,71,87)(H,72,86)(H,73,85)(H,74,84)(H,75,83)(H,79,80)(H4,62,63,66);2H2,1H3,(H,6,7)/t39-,41-,42-,43-,44-,45-,46-,47+,48-;/m0./s1
